US07501425B1
1-Isopropyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 200 mg (0.52 mmol) of 1-isopropyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 235 mg (2.10 mmol) of potassium tert-butoxide in 10 mL of tetrahydrofuran. The semi-solid is triturated in 14 mL of 1:1 diethyl ether/hexane, and the powder is collected and dried to give 135 mg (68%) of the title compound:

reactant | 1-isopropyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.52 mmol, 200 mg | C(C)(C)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C20H27N7O
reactant | potassium tert-butoxide | 2.10 mmol, 235 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-Isopropyl-7-[4-(4-methylpiperazin-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one | 135 mg, 68% | C(C)(C)N1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C20H25N7O
